US07078414B2
0.4 mL (4.5 mmol) of oxalyl chloride is added at 20° C. under an argon atmosphere to 0.58 g (2.2 mmol) of 3-carboxy-1-(isoquinol-1-yl)-1H-pyrrole dissolved in 45 mL of dichloromethane. After stirring at 20° C. for 0.5 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give 0.65 g of 3-chlorocarbonyl-1-(isoquinol-1-yl)-1H-pyrrole hydrochloride in the form of a beige-coloured solid which is used directly in the following step.

reactant | oxalyl chloride | 4.5 mmol, 0.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-1-(isoquinol-1-yl)-1H-pyrrole | 2.2 mmol, 0.58 g | C(=O)(O)C1=CN(C=C1)C1=NC=CC2=CC=CC=C12 | C14H10N2O2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-1-(isoquinol-1-yl)-1H-pyrrole hydrochloride | 0.65 g | Cl.ClC(=O)C1=CN(C=C1)C1=NC=CC2=CC=CC=C12 | InChI=1S/C14H9ClN2O.ClH/c15-13(18)11-6-8-17(9-11)14-12-4-2-1-3-10(12)5-7-16-14;/h1-9H;1H
